US07812025B2
(3) 1-(4-Phenylpyridin-2-yl)piperazine
A solution of tert-butyl 4-(4-phenylpyridin-2-yl)piperazine-1-carboxylate (390 mg, 1.15 mmol) and 2N methanol solution of hydrogen chloride (30 ml) was stirred at room temperature for 4 hours, and the solvent was distilled away under reduce pressure. To the residue was added 1N aqueous solution of sodium hydroxide (10 ml), extracted with chloroform (10 ml), and the extract was dried over anhydrous magnesium sulfate, and then the solvent was distilled away under reduce pressure to give the titled compound 275 mg (100%) as an oil product.

reactant | tert-butyl 4-(4-phenylpyridin-2-yl)piperazine-1-carboxylate | 1.15 mmol, 390 mg | C1(=CC=CC=C1)C1=CC(=NC=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C20H25N3O2
reactant | hydrogen chloride | 30 ml | Cl | ClH
solvent | methanol | 2N | CO | CH4O
product | 1-(4-Phenylpyridin-2-yl)piperazine | 275 mg, 100% | C1(=CC=CC=C1)C1=CC(=NC=C1)N1CCNCC1 | C15H17N3
